US07414067B2
N-cyclohexyl-N-(4-methylthiazol-2-yl)amine
To a solution of 0.85 mL (8.28 mmol) of cyclohexanone and 1.0 g (8.75 mmol) of 2-amino-4-methylthiazole in 10 mL of tetrahydrofuran was added 0.5 mL (8.75 mmol) of acetic acid and 4.64 g (21.8 mmol) of sodium triacetoxyborohydride. After stirring for 16 hr at rt, a further 0.45 mL (4.37 mmol) of cyclohexanone and 0.926 g (4.37 mmol) of sodium triacetoxyborohydride was added and stirring continued for 72 hr at rt. Ethyl acetate (15 mL) was added and the mixture washed with saturated sodium bicarbonate (2×15 mL) then dried (Na2SO4). Purification by chromatography on silica gave the title compound.

reactant | cyclohexanone | 8.28 mmol, 0.85 mL | C1(CCCCC1)=O | C6H10O
reactant | 2-amino-4-methylthiazole | 8.75 mmol, 1.0 g | NC=1SC=C(N1)C | C4H6N2S
reactant | acetic acid | 8.75 mmol, 0.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 21.8 mmol, 4.64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | cyclohexanone | 4.37 mmol, 0.45 mL | C1(CCCCC1)=O | C6H10O
reactant | sodium triacetoxyborohydride | 4.37 mmol, 0.926 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | N-cyclohexyl-N-(4-methylthiazol-2-yl)amine | C1(CCCCC1)NC=1SC=C(N1)C | C10H16N2S
